US06340759B1
(142-2) 5-Bromo-2-(3-ethoxy-1-propenyl)pyridine
5-Bromo-2-(3-hydroxy-1-propenyl)pyridine (3.718 g) was dissolved in tetrahydrofuran (60 ml), followed by the sequential addition of triethylamine (7.1 ml) and methanesulfonyl chloride (1.6 ml) under ice-cooling, and the resulting mixture was stirred as it was, for 25 min. After the resulting insoluble matters were filtered off, the mixture was evaporated. The resulting residue was dissolved in ethanol (60 ml), followed by the addition of sodium ethoxide (1.388 g)/ethanol (25 ml) solution under ice-cooling, and the mixture was stirred at room temperature for 3.5 hr. The reaction mixture was evaporated, and the resulting residue was partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellow oil (2.607 mg, yield; 65%).

reactant | 5-Bromo-2-(3-hydroxy-1-propenyl)pyridine | 3.718 g | BrC=1C=CC(=NC1)C=CCO | C8H8BrNO
reactant | triethylamine | 7.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.6 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-Bromo-2-(3-ethoxy-1-propenyl)pyridine | 2.607 mg, yield; 65% | BrC=1C=CC(=NC1)C=CCOCC | C10H12BrNO
